US05780505
3-(2-Chloro-4-fluoro-benzylamino)-4-(1,1-dimethyl-propylamino)-cyclobut-3-ene-1,2-dione
This compound was prepared according to the procedure for Example 59. From 2-chloro-4-fluorobenzylamine and 3-ethoxy-4-(1,1-dimethyl-propylamino)-cyclobut-3-ene-1,2-dione in acetonitrile. The title compound was obtained, after recrystallization from petroleum ether, as a white solid (60%); mp 201°-203° C.; 1H NMR (DMSO-d6) δ0.81 (t, 3H), 1.30 (s, 6H), 1.68 (q, 2H), 4.76 (d, 2H), 7.25 (m, 1H), 7.50 (m, 3H), 7.78 (m, 1H) ppm; IR (KBr) 3250, 3040, 1790, 1660, 1580, 1530, 1490 cm-1 ; MS (m/z) 325 ([M+H]+).

reactant | 2-chloro-4-fluorobenzylamine | ClC1=C(CN)C=CC(=C1)F | C7H7ClFN
reactant | 3-ethoxy-4-(1,1-dimethyl-propylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC(CC)(C)C)=O)=O | C11H17NO3
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(2-Chloro-4-fluoro-benzylamino)-4-(1,1-dimethyl-propylamino)-cyclobut-3-ene-1,2-dione | ClC1=C(CNC=2C(C(C2NC(CC)(C)C)=O)=O)C=CC(=C1)F | C16H18ClFN2O2
